US06440636B1
Production of 1,3-Dihydroxy-5-methacryloyloxyadamantane [2-2 (Methacrylate)]
The title compound was prepared in the same manner as in Production Example 6, except that 1,3,5-adamantanetriol and methacrylic chloride were used instead of 1,3-adamantanediol and acrylic chloride, respectively.

reactant | 1,3,5-adamantanetriol | C12(CC3(CC(CC(C1)C3)(C2)O)O)O | C10H16O3
reactant | methacrylic chloride | C(C(=C)C)(=O)Cl | C4H5ClO
reactant | 1,3-adamantanediol | C12(CC3(CC(CC(C1)C3)C2)O)O | C10H16O2
reactant | acrylic chloride | C(C=C)(=O)Cl | C3H3ClO
product | 1,3-Dihydroxy-5-methacryloyloxyadamantane | OC12CC3(CC(CC(C1)C3)(C2)OC(C(=C)C)=O)O | C14H20O4
